US05445762
7,13-Bis(3,3-dimethylbutyroyl)-1,4,10-trioxa-7,13-diazacyclopentadecane
Analogously to Example 2 from 1,4,10-trioxa-7,13-diazacyclopentadecane and 3,3-dimethylbutyryl chloride.

reactant | 1,4,10-trioxa-7,13-diazacyclopentadecane | O1CCOCCNCCOCCNCC1 | C10H22N2O3
reactant | 3,3-dimethylbutyryl chloride | CC(CC(=O)Cl)(C)C | C6H11ClO
product | 7,13-Bis(3,3-dimethylbutyroyl)-1,4,10-trioxa-7,13-diazacyclopentadecane | CC(CC(=O)N1CCOCCOCCN(CCOCC1)C(CC(C)(C)C)=O)(C)C | C22H42N2O5
